US09210932B2
Step A: Preparation of methyl α-cyano-2-fluorobenzeneacetate
Sodium methoxide (51.84 g) was added to dry toluene (815 mL) in a 1 L reactor under a nitrogen atmosphere. The reaction mixture was heated to 75° C., and then a mixture of 2-fluorobenzeneacetonitrile (100 g) in dimethyl carbonate (131.64 g) was added at 70-74° C. over a period of 45 minutes. The reaction mixture was further maintained at this temperature (70-75° C.) for an additional 4.5 hours. The reaction mixture was then cooled to 25-30° C. and added to a mixture of HCl (110 g, 35.2 wt %) diluted with water (300 mL) at 10-15° C. using an addition funnel. The resulting layers were separated, and the aqueous layer was extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with water (2×200 mL), dried over sodium sulfate, and concentrated under reduced pressure to provide the title compound as a brown oily liquid (138.8 g, 94.8% yield).

reactant | Sodium methoxide | 51.84 g | C[O-].[Na+]
reactant | toluene | 815 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluorobenzeneacetonitrile | 100 g | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | HCl | 110 g | Cl | ClH
reactant | dimethyl carbonate | 131.64 g | C(OC)(OC)=O | C3H6O3
solvent | water | 300 mL | O | H2O
product | methyl α-cyano-2-fluorobenzeneacetate | 138.8 g, 94.8% yield | C(#N)C(C(=O)OC)C1=C(C=CC=C1)F | C10H8FNO2
